US03932467
A mixture of 13.5 parts of dl-methyl 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoate, 17.8 parts of sodium periodate, 55 parts of water, 160 parts of dioxane and 2 parts by volume of a 2% osmium tetroxide in dioxane solution is stirred at room temperature under nitrogen for about 4 hours. The reaction mixture is extracted with ether and the ether solution is dried over anhydrous sodium sulfate, then concentrated to dryness under reduced pressure. The resulting residue is purified by dry column chromatography on silica gel containing 8% of water, using 50% ethyl acetate in benzene, thus affording dl-methyl 2-formyl-3-hydroxy-5-oxocyclopent-1-eneheptanoate, characterized by an ultraviolet absorption maximum at about 228 millimicrons with a molecular extinction coefficient of about 10,200.

reactant | methyl 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoate | OC1C(=C(C(C1)=O)CCCCCCC(=O)OC)C=CC1=CC=CC=C1 | C21H26O4
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | methyl 2-formyl-3-hydroxy-5-oxocyclopent-1-eneheptanoate | C(=O)C1=C(C(CC1O)=O)CCCCCCC(=O)OC | C14H20O5
